US08729102B2
C) [2-bromo-4-(cyclopropylmethoxy)phenyl]acetic acid
1M Aqueous sodium hydroxide solution (30 mL) was added to a solution of cyclopropylmethyl [2-bromo-4-(cyclopropylmethoxy)phenyl]acetate (6 g) in methanol (50 mL) at room temperature, and the mixture was stirred at 50° C. for 2 hr. The reaction mixture was allowed to cool to room temperature, water was added thereto, and the mixture was washed with diisopropyl ether. The aqueous layer was acidified with 1M hydrochloric acid, and extracted with ethyl acetate. The combined organic layer was washed with saturated brine, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure to give the title compound (4.48 g).

reactant | sodium hydroxide | 1M, 30 mL | [OH-].[Na+]
reactant | cyclopropylmethyl [2-bromo-4-(cyclopropylmethoxy)phenyl]acetate | 6 g | BrC1=C(C=CC(=C1)OCC1CC1)CC(=O)OCC1CC1 | C16H19BrO3
reactant | water | O | H2O
solvent | methanol | 50 mL | CO | CH4O
product | [2-bromo-4-(cyclopropylmethoxy)phenyl]acetic acid | 4.48 g | BrC1=C(C=CC(=C1)OCC1CC1)CC(=O)O | C12H13BrO3
